US05183820
7-Fluoro-1-methyl-1H-indole-2-carboxaldehyde
7-Fluoro-1-methyl-1H-indole-2-methanol (2.0 g) was dissolved in 1,4-dioxan (50 ml). Manganese dioxide (2.91 g) was added and the mixture was heated at reflux for 1 h. The mixture was then filtered and the filtrate was evaporated in vacuo to give the title compound (1.77 g) as a solid, m.p. 61°-63°.

reactant | 7-Fluoro-1-methyl-1H-indole-2-methanol | 2.0 g | FC=1C=CC=C2C=C(N(C12)C)CO | C10H10FNO
solvent | 1,4-dioxan | 50 ml | O1CCOCC1 | C4H8O2
catalyst | Manganese dioxide | 2.91 g | [O-2].[O-2].[Mn+4]
product | 7-Fluoro-1-methyl-1H-indole-2-carboxaldehyde | 1.77 g | FC=1C=CC=C2C=C(N(C12)C)C=O | C10H8FNO
